US09169248B2
A mixture of 4-fluorobenzeneboronic acid (2.47 g, 17.7 mmol), 4-nitro-1H-pyrazole (1.00 g, 8.84 mmol), copper (II) acetate (2.41 g, 13.3 mmol) and pyridine (2.86 mL, 35.4 mmol) in CH2Cl2 (40 mL) was stirred at room temperature overnight. The reaction mixture was filtered and diluted with water (40 mL). The organic layer was separated, dried over anhydrous sodium sulfate, concentrated in vacuo, and purified by flash chromatography (SiO2, 0-20% EtOAc/hexanes gradient elution) to give 1-(4-fluorophenyl)-4-nitropyrazole as a white solid (0.820 g, 22%).

reactant | 4-fluorobenzeneboronic acid | 17.7 mmol, 2.47 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | 4-nitro-1H-pyrazole | 8.84 mmol, 1.00 g | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
reactant | pyridine | 35.4 mmol, 2.86 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
catalyst | copper (II) acetate | 13.3 mmol, 2.41 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 1-(4-fluorophenyl)-4-nitropyrazole | 0.820 g, 22% | FC1=CC=C(C=C1)N1N=CC(=C1)[N+](=O)[O-] | C9H6FN3O2
